US08202865B2
Step 3: methyl 4-[amino(hydroxyimino)methyl]-2-chloro-5-fluorobenzoate
Methyl 2-chloro-4-cyano-5-fluorobenzoate (1.65 g; 7.72 mmol; 1 eq.) was suspended in EtOH (33 mL). Hydroxylamine (1.14 mL; 38.62 mmol; 5 eq.) was added in one portion. The reaction mixture was stirred at RT for 6 hours. The obtained suspension was filtered affording the title compound as a beige solid. 1H NMR (DMSO-d6, 300 MHz) δ 9.98 (br s, 1H), 7.74-7.67 (m, 2H), 6 (hr s, 2H), 3.87 (s, 3H). LC/MS (Method B): 247.0 (M+H)+; 245.1 (M−H)−. HPLC (Method A) Rt 1.80 min (Purity: 90.4%).

reactant | Methyl 2-chloro-4-cyano-5-fluorobenzoate | 7.72 mmol, 1.65 g, 1 eq. | ClC1=C(C(=O)OC)C=C(C(=C1)C#N)F | C9H5ClFNO2
reactant | Hydroxylamine | 38.62 mmol, 1.14 mL, 5 eq. | NO | H3NO
solvent | EtOH | 33 mL | CCO | C2H6O
product | methyl 4-[amino(hydroxyimino)methyl]-2-chloro-5-fluorobenzoate | NC(C1=CC(=C(C(=O)OC)C=C1F)Cl)=NO | C9H8ClFN2O3
